US05696146
Methyl(2,2-di[4-chlorophenyl]-1,3-benzodioxolan-5-yl)acetate
A mixture of di(4-chlorophenyl)dimethoxymethane (26 g) (see Preparation 13) and methyl (3,4-dihydroxyphenyl)acetate (16 g) (see Preparation 12) in toluene (200 ml) was heated under reflux in a Dean-Stark apparatus for one hour. The reaction was cooled to 60° C. and p-toluenesulphonic acid was added (50 mg). After heating under reflux for 16 hours the solution was cooled, washed with aqueous sodium bicarbonate (100 ml), dried (MgSO4) and evaporated to a brown gum. Flash chromatography (silica, eluant=4:1 hexane/ethyl acetate) gave the title compound as a pale yellow gum (13.7 g). LRMS m/z=415(m)+.

reactant | di(4-chlorophenyl)dimethoxymethane | 26 g | ClC1=CC=C(C=C1)C(OC)(OC)C1=CC=C(C=C1)Cl | C15H14Cl2O2
reactant | methyl (3,4-dihydroxyphenyl)acetate | 16 g | OC=1C=C(C=CC1O)CC(=O)OC | C9H10O4
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl(2,2-di[4-chlorophenyl]-1,3-benzodioxolan-5-yl)acetate | 13.7 g | COC(CC1=CC2=C(OC(O2)(C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl)C=C1)=O | C22H16Cl2O4
